US07435837B2
Treatment of (±)-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (3.0 g, 7.82 mmol) with sodium azide (0.309 g, 4.48 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.030 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.25 g (80%) of (±)-1-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 152-154° C.; Anal. calcd. for C16H17NO2HCl: C, 65.86; H, 6.22; N, 4.8. Found: C, 65.21; H, 6.17; N, 4.46.

reactant | (±)-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 7.82 mmol, 3.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)OC | C23H22O5S
reactant | sodium azide | 4.48 mmol, 0.309 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)OC | C16H15N3O2
